US03963706
c. 1-Phenyl-3-(3-chloro-4-sulphamoylphenyl)-imidazolidin-4-one
2-Phenylamino-N-(3-chloro-4-sulphamoylphenyl)-acetamide (34 g) was dissolved in ethanol (300 ml) and paraformaldehyde (6.0 g) in water (600 ml) added. The mixture was refluxed 4 hrs and cooled. The product was worked up as in Example 1(c) to yield: 18 g, m.p. 257°-259°.

reactant | 2-Phenylamino-N-(3-chloro-4-sulphamoylphenyl)-acetamide | 34 g | C1(=CC=CC=C1)NCC(=O)NC1=CC(=C(C=C1)S(N)(=O)=O)Cl | C14H14ClN3O3S
reactant | paraformaldehyde | 6.0 g | C=O | CH2O
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 600 ml | O | H2O
product | 1-Phenyl-3-(3-chloro-4-sulphamoylphenyl)-imidazolidin-4-one | C1(=CC=CC=C1)N1CN(C(C1)=O)C1=CC(=C(C=C1)S(N)(=O)=O)Cl | C15H14ClN3O3S
